US07056937B2
[Exemplifled by Preparation of (3-Oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl)-acetic acid]
2-(3-Oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)-acetamide (22 g, 0.11 mol) was dissolved in 10% NaOH (600 mL) and was heated under reflux for 3 hours. The mixture was cooled down via an ice-bath and was acidified with pre-cooled 10% HCl to pH˜6. The solvent was concentrated and the resulting precipitate was isolated via filtration to give a gray solid as the title product: 1H NMR (DMSO-d6) δ=12.35 (bs, 1H), 10.25 (bs, 1H), 6.74–6.68 (m, 3H), 6.61–6.58 (m, 1H), 5.91 (bs, 1H), 4.08–4.04 (m, 1H), 2.69 (dd, 1H, J=5.1, 16.2 Hz), 2.51 (dd, 1H, J=6.9, 16.2 Hz)

reactant | 2-(3-Oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)-acetamide | 0.11 mol, 22 g | O=C1C(NC2=CC=CC=C2N1)CC(=O)N | C10H11N3O2
reactant | HCl | Cl | ClH
reactant | NaOH | 600 mL | [OH-].[Na+]
product | (3-Oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl)-acetic acid | O=C1C(NC2=CC=CC=C2N1)CC(=O)O | C10H10N2O3
